Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hypertension 
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
___ year old woman with type 1 diabetes mellitus (insulin pump), 
chronic lumbar disk disease, hypertension, hyperlipidemia, 
severe peripheral vascular disease with right BKA ___, 
chronic pain from PVD and phantom limb pain on narcotics), 
orthostatic hypotension (was on salt tabs) who presents with 
hypertension and hyperglycemia. Reportedly ___ saw her today and 
found her with altered mental status(confirmed with husband) and 
with SBP>220. No focal numbness, weakness, tingling. Denies 
fevers, chills, nausea/vomiting, abdominal pain, headache, 
visual changes.  
.  
The patient did call HCA today as she was discharged yesterday 
without new MS ___ prescription and she is out at home. She 
was concerned about withdrawal but her pain was well controlled 
with oxycodone. Plan was for to pick up her prescription on 
___ morning, but to present to the ED with any concerning 
signs or symptoms in the interim.  
.  
Of note, the patient was recently admitted ___ for 
nausea/vomiting/diarrhea felt possibly due to withdrawal (from 
MS contin). She was briefly in the MICU for hypertensive 
emergency (altered mental status) and mild DKA. She was treated 
with aggressive insulin, IVF, pain control, anti-emetics and 
labetalol gtt. Cardiology was also consulted for new RBBB that 
they felt was rate related (not due to acute myocardial 
ischemia). She was ultimately transitioned to Labetalol 400mg 
TID and then to Lisinopril 5mg --> 2.5mg upon discharge (given 
history of orthostatic hypotension with frequent SBP drops by 40 
points). She was instructed to discontinue salt tabs which she 
previously took at home. Metanephrines were also sent given ?why 
she only recently became so hypertensive yet orthostatic, and so 
difficult to control.  
.  
In the ED, initial VS were: T98.2, HR81, BP178/68, RR18, 98% on 
RA. The patient was alert and oriented X3 but sleepy (easily 
aroused). She was started on IVF (2L NS) and labs notable for 
hyperglycemia (BS 358), otherwise stable Chem 7 without anion 
gap, stable CBC, normal coags. CXR and CT head were 
unremarkable. The patient was given morphine 10mg IV and then 
Metoprolol 5mg X1 IV, Labetalol 10mg X1 IV, Lisinopril 5mg PO. 
Her blood pressures remained elevated and infact, continued to 
climb into the SBP190s-200s. Her finger stick was critically 
high at 8pm and the patient gave herself 10.7 units of her 
humalog insulin pump. On repeat ~two hours later, her finger 
stick remained critically high and thus she was given regular 
insulin 10 units SQ. On recheck, her blood sugar remains 
critically high. Given her recent admission with immediate 
transfer to MICU for SBP220s and anion gap acidosis (mild), she 
was admitted to the MICU this time also. Repeat chem 10 showed 
gap 12.  She was started on a labetalol gtt and on transfer her 
vitals were 97.8po 88 23 195/60 99%ra.  

On arrival to the ___ MICU, pt is alert and oriented.  She 
reports that she just doesnt feel right and endorses polyuria.  
She denies any fevers, chills.  No chest pain, palpitations, 
changes in vision, sob, headache, dizziness.  No diarrhea or 
flushing.  Vital signs were afebrile, 177/81, 82, 13, 90% RA.  

 
Past Medical History:
- h/o DVT, unknown when  
- DMI on insulin pump, patient unable to say dose. Followed by 
___.  
- Peripheral neuropathy  
- h/o gastroparesis  
- Chronic LBP/sciatica  
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD  
- Autonomic dysfunction, orthostatic hypotension  
- History of seizure ___ characterized by becoming less  
responsive, oriented to name only, gaze deviation and left arm  
shaking. ___ 297 and was in the setting of receiving cipro, Neuro 
 
felt ___ infection vs PRES.  
- Barretts Esophagus on EGD ___  
- Depression  
- MI ___, no stents  
PAST SURGICAL HISTORY:  
___ - Malunion right intertrochanteric hip fracture with  
protrusion of screw s/p revision arthroplasty  
___ Comminuted right intertrochanteric hip fracture s/p right 
 
hip fracture open reduction internal fixation (intramedullary  
nail)  
___ RLE angiography  
RLE SFA-AT BPG with NRSVG ___  
Angioplasty of vein graft ___  
___, L hip hemiarthroplasty  
- Hiatal hernia  
- s/p laminectomy  
- s/p hysterectomy  

 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 

___. Father - coronary artery disease with MI in her ___, died at 
age ___.  

 
Physical Exam:
ADMISSION EXAM 
General: No acute distress, alert and oriented X3, conversant, 
pleasant  
HEENT: Sclera anicteric, moist mucus membranes, ___ 
clear, EOMI, PERRL  
Neck: Soft, supple, JVP not elevated, Left EJ in place
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no bruits  
Ext: Warm, no edema/ecchymosis/cyanosis. s/p right BKA well 
healed and palpable popliteal pulse. No ulcers.  
Neuro: Strength and sensation grossly intact, CN2-12 intact 

 
Pertinent Results:
ADMISSION LABS 
___ 07:10AM BLOOD WBC-6.8 RBC-3.71* Hgb-11.0* Hct-34.8* 
MCV-94 MCH-29.6 MCHC-31.5 RDW-14.4 Plt ___
___ 05:55PM BLOOD WBC-6.6 RBC-3.76* Hgb-11.5* Hct-35.1* 
MCV-94 MCH-30.6 MCHC-32.7 RDW-14.4 Plt ___
___ 05:55PM BLOOD Neuts-78.0* Lymphs-15.0* Monos-5.4 
Eos-1.1 Baso-0.5
___ 05:55PM BLOOD ___ PTT-30.2 ___
___ 07:10AM BLOOD Glucose-164* UreaN-24* Creat-1.1 Na-137 
K-4.3 Cl-103 HCO3-28 AnGap-10
___ 01:29AM BLOOD ALT-18 AST-20 LD(LDH)-197 AlkPhos-114* 
TotBili-0.3
___ 10:55PM BLOOD CK-MB-3
___ 09:16AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
.
DISCHARGE LABS
___ 01:56AM BLOOD WBC-4.8 RBC-3.44* Hgb-10.3* Hct-31.5* 
MCV-92 MCH-30.0 MCHC-32.8 RDW-14.0 Plt ___
___ 01:56AM BLOOD Glucose-165* UreaN-21* Creat-1.1 Na-138 
K-4.3 Cl-102 HCO3-30 AnGap-10
.
URINE
___ 09:43AM URINE Color-Straw Appear-Hazy Sp ___
___ 09:43AM URINE Blood-SM  Nitrite-POS Protein-100 
Glucose->1000 Ketone-40 Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 09:43AM URINE RBC-5* WBC->182* Bacteri-FEW Yeast-NONE 
Epi-0
.
MICROBIOLOGY
URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
.
IMAGING 
EKG
Sinus rhythm. Left atrial abnormality. Left ventricular 
hypertrophy. Left 
axis deviation consistent with left anterior fascicular block. 
Compared to the previous tracing of ___, there is no 
diagnostic interim change. 
.
CXR
The cardiac, mediastinal and hilar contours appear unchanged.  
The 
heart is at the upper limits of normal size.  Bilaterally, 
nipple shadows are visualized.  The lungs appear clear.  The 
interstitium was more prominent on the prior examination than 
now.  There are no pleural effusions or pneumothorax.  Mild 
hyperinflation is noted.  Severe degenerative changes are partly 
visualized along the right shoulder. 
.
HEAD CT
IMPRESSION:  No evidence of acute process.  Stable small 
hypodense areas in the pons suggesting prior infarcts. 
 
Brief Hospital Course:
PRIMARY REASON FOR ADMISSION

___ yo female with T1DM (insulin pump), chronic lumbar disk 
disease (chronic narcotics), hypertension, hyperlipidemia, 
severe peripheral vascular disease with right BKA (___), 
orthostatic hypotension (on salt tabs) recently admitted for 
hypertensive emergency (altered mental status), mild DKA and now 
presents with poorly controlled hypertension and hyperglycemia.  

.  
# Hyptertensive urgency: SBP >200s with mental status changes 
concerning for poor perfusion.  CT head did not show any acute 
changes.  She does not have any other signs of end organ 
failure.  She has had an extensive workup for her HTN including 
urine metanephrines (pending), protein electropheresis wnl, 
serum and urine tox recently neg for cocaine/amphetamines, no 
signs of hyperaldosteronism, no h/o OSA and normal renal US 
recently.  It is likely that her hx of DM has led to some renal 
parechymal vs microvascular disease leading to progressive HTN.  
HTN has not been aggressively controlled as outpt because of 
severe autonomic dysfunction resulting in orthostasis.  She was 
initially admitted to the MICU where she was started on 
labetalol 400 TID.  She remained hypertensive with BP in the 
180s. Therefore lisinopril was increased to 20 mg daily.  On 
this regimen she was noted to be orthostatic so labetalol was 
decreased to 200 TID. Prior to discharge she was able to 
ambulate with ___ without feeling dizzing, and with adequate 
control of her BP. The patient will follow-up with her PCP.  It 
is also recommended she see Neurology for evaluation of 
autonomic instability. 
.  
# Altered mental status: Given sedation in the setting of 
hypertension there was intial concern for hypertensive 
emergency.  Head CT showed no acute process and ultimately AMS 
was felt to be due to sedation from medication as well as 
possibly due to her UTI.  Mental status greatly improve in the 
MICU and she was at her baseline when she was transferred to the 
floor.
.  
# Diabetes/ r/o DKA: On admission she was noted to have 
hyperglycemia in the setting of a malfunctioning insulin pump. 
She did not have an anion gap to suggest DKA. UTI also likely 
contributing to hyperglycemia. ___ was consulted and the 
patient was maintained on lantus and HISS until mental status 
improved and she was able to manage her pump. 
. 
# UTI- UA was grossly positive.  Patient was started on 
ceftriaxone. Urine culture grew pan-sensitive E.coli. She was 
transition to cipro to complete a 7 day course.
.
STABLE ISSUES
.  
# Chronic pain: Patient endorses worsening RLE pain, 
predominantly in her toes (s/p BKA). RLE warm and well perfused 
with palpable pulses. ?Worsening peripheral vascular disease. 
She was continued on her home gabapentin, oxycodone and MScontin 
with holding parameters. Peripheral vascular disease was managed 
as below.  
.  
# Peripheral Vascular Disease: Patient was continued on her home 
plavix and zocor 
.  
# Depression: Patient was continued on her home citalopram  
..  
# Hypothyroidism:  Patient was continued on her home 
levothyroxine
.
TRANSTIONAL ISSUES
Full Code 
monitor for orthostatic hypotension 
Patient might benefit from evaluation by neurology for autonomic 
instability
 
Medications on Admission:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. citalopram 40 mg Tablet Sig: One (1) Tablet PO once a day.  
3. omega-3 fatty acids Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
4. Travatan Z 0.004 % Drops Sig: One (1) Ophthalmic once a day: 
both eyes.  
5. insulin glargine 100 unit/mL Solution Sig: Five (5) units 
Subcutaneous at bedtime.  
6. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
Contact your PCP if you feel more lightheaded or dizzy.  
7. sennosides 8.6 mg Tablet Sig: Two (2) Tablet PO once a day.  
8. Humalog 100 unit/mL Cartridge Sig: 100 units/mL Subcutaneous 
on insulin pump basal rate.  
9. cyanocobalamin (vitamin B-12) 500 mcg Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
10. morphine 15 mg Tablet Extended Release Sig: Three (3) Tablet 
Extended Release PO qAM (morning).  
11. morphine 15 mg Tablet Extended Release Sig: Two (2) Tablet 
Extended Release PO at bedtime.  
12. lorazepam 1 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for anxiety.  
13. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
14. calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
15. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
17. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO once 
a day.  
18. levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
19. oxycodone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for pain.  
20. gabapentin 400 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
21. Restasis 0.05 % Dropperette Sig: Two (2) Ophthalmic three 
times a day.  
22. multivitamin Tablet Sig: One (1) Tablet PO DAILY (Daily).  
23. folic acid ___ mcg Tablet Sig: One (1) Tablet PO once a day. 
 
24. Refresh Celluvisc 1 % Dropperette Sig: One (1) Ophthalmic 
once a day as needed for dry eyes.  
25. Glucagon Emergency 1 mg Kit Sig: One (1) Injection once a 
day as needed for low sugar.  
26. Citracal + D Maximum 315-250 mg-unit Tablet Oral  
 Disp:*30 Tablet(s)* Refills:*1*  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertensive Urgency 
Hyperglycemia 
Urinary Tract infection 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms ___,

It was a pleasure participating in your care while you were 
admitted to ___. As you know 
you were admitted because your blood pressure and blood sugar 
was elevated.  We started you on new medications to help with 
your blood pressure.  There was some concern that your insulin 
pump was not working correctly.  You were given insulin shots 
until your pump could be replaced.  You blood sugars were 
improved. 

We made the following changes to your medications
1. START Labetalol 200 mg three times a day
2. INCREASE lisinopril 20 mg daily 
3. START Ciprofloxacin twice a day for 4 more days 

You should continue to take all other medications as instructed. 
 
 
Followup Instructions:
___